* PMOS STACK *
**************

.INCLUDE ../45nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

* Defining parameters
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM Ldiff=90n
	
* Description of the transistor
Mn1   X		A   sup	sup   pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn2   0     B   X   sup   pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

* Initial Parameters
Vdd   sup   0	1.1
Va    A     0
Vb    B     0

* Analysis Parameters
.CONTROL

alter Vdd = 1.1
let v1 = 0
while v1 le 1.1
	alter Va = v1	
  	let v2 = 0
	
 	while v2 le 1.1
		alter Vb = v2

		if v1 > 0
			if v2 > 0
				alter Vdd = 0
			end
		end 
			
		dc TEMP 25 30 10
		print V(sup) V(A) V(B) V(X) 

    let v2 = v2 + 1.1
	end	   
 	let v1 = v1 + 1.1
end

.ENDC
.END